US03941828
2-chloro-2-(pent-2-ynyl)-cyclohexane-1,3-dione (80 g; 0.377 Mole) in dry xylene (800 ml) was allowed to reflux in the presence of anhydrous sodium carbonate (39.2 g; 0.38 Mole) until gas evolution ceased (12 h.). The reaction mixture was cooled, washed three times with water, and dried over magnesium sulfate, and the xylene was removed in vacuo. The resulting residue was distilled through a Vigreux column to afford 2-(pent-2-ynyl)-cyclopent-2-enone (41.3 g; 74 % yield), b.p. 67°-8°/0.01 Torr.

reactant | 2-chloro-2-(pent-2-ynyl)-cyclohexane-1,3-dione | 0.377 Mole, 80 g | ClC1(C(CCCC1=O)=O)CC#CCC | C11H13ClO2
reactant | sodium carbonate | 0.38 Mole, 39.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | xylene | 800 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(pent-2-ynyl)-cyclopent-2-enone | 41.3 g, 74 % yield | C(C#CCC)C=1C(CCC1)=O | C10H12O
